US04332809
Ethanol (9.5 ml) is added to a suspension of 60% sodium hydride (26.3 g) in anhydrous ether (750 ml), and thereto is added dropwise a mixture of p-nitrobenzalacetone (130 g), diethyl oxalate (99.4 g) and anhydrous tetrahydrofuran (550 ml) at 5°-10° C. with agitation. The mixture is agitated at room temperature for one hour, and thereto is added 10% hydrochloric acid (350 ml). The precipitated yellow solid is collected by filtration, washed with ether and then recrystallized from acetone to give ethyl 6-(4-nitrophenyl)-2,4-dioxo-hex-5-enoate (87.8 g). M.P. 148.5°-153.5° C.

reactant | sodium hydride | 26.3 g | [H-].[Na+]
reactant | p-nitrobenzalacetone | 130 g | [N+](=O)([O-])C1=CC=C(C=CC(C)=O)C=C1 | C10H9NO3
reactant | diethyl oxalate | 99.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 350 ml | Cl | ClH
solvent | ether | 750 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
solvent | Ethanol | 9.5 ml | C(C)O | C2H6O
product | ethyl 6-(4-nitrophenyl)-2,4-dioxo-hex-5-enoate | 87.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC(CC(C(=O)OCC)=O)=O | C14H13NO6
